US06090825
A 5-l round bottom flask containing sodium hydride (60% dispersion, 180 g, 4.5 mole) and tetrahydrofuran (1.5 l) is cooled to 0° C. and 2,2,2-trifluoroethanol (516 mL, 7.2 mole) is added over 1 hour. A separate 12-l round bottom flask containing {4-[5-(4-fluorophenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl} acetonitrile (300 g, 0.90 mole), tetrahydrofuran (6.0 l) and triethylamine (500 mL, 3.6 mole) is cooled to -3° C. then methanesulfonic anhydride (360 g, 2.1 mole) is added in one portion. The resulting suspension is stirred for 30 minutes then the 2,2,2-trifluoroethanol sodium salt solution in the 5-l round bottom flask is added in one portion. The resulting slurry is warmed to room temperature, stirred for 1 hour, concentrated to a semi-solid and water (4.5 l) is added. The suspension is washed with methyl t-butylether (2×3 L). The combined organic extracts are washed with water (1.5 l), saturated aqueous sodium chloride (1.5 l), dried over sodium sulfate (100 g), filtered and concentrated to 1 l. To effect crystallization, heptane (4 l) is added. The resulting slurry is cooled to 0° C., the solids are collected by filtration and dried to constant weight to give {4-[5-(4-fluorophenyl)-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidin-1-yl} acetonitrile (318 g, 0.801 mole). H NMR (400 MHz, CDCl3) d 1.99 (m, 2H), 2.20 (m, 2H), 2.54 (t, 2H), 2.90 (m, 3H), 3.60 (s, 2H), 4.00 (q, 2H), 4.70 (s, 2H), 7.16 (t, 2H), 7.73 (q, 2H).

reactant | sodium hydride | 4.5 mole, 180 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | 7.2 mole, 516 mL | FC(CO)(F)F | C2H3F3O
reactant | {4-[5-(4-fluorophenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl} acetonitrile | 0.90 mole, 300 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)CC#N)CO | C17H18FN3O2
reactant | triethylamine | 3.6 mole, 500 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 2.1 mole, 360 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 2,2,2-trifluoroethanol sodium salt | [Na].FC(CO)(F)F
solvent | tetrahydrofuran | 6.0 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
product | {4-[5-(4-fluorophenyl)-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidin-1-yl} acetonitrile | 0.801 mole, 318 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)CC#N)COCC(F)(F)F | C19H19F4N3O2
